data/mechanisms/records/IMS8-EQ8.53b.json
{"mechanism_id": "IMS8-EQ8.53b", "species": [{"species_id": "cyclic_oe_molecular_ion", "mapped_smiles": "[OH+:1][CH:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[OH+:1]=[CH:2][CH2:7][CH2:6][CH2:5][CH2:4][CH2:3]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethylene_first_loss", "mapped_smiles": "[CH2:3]=[CH2:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "shortened_distonic_ion", "mapped_smiles": "[OH+:1]=[CH:2][CH2:7][CH2:6][CH2:5]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "alkene_second_loss", "mapped_smiles": "[CH2:5]=[CH2:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "distonic_oxonium_c2h4o", "mapped_smiles": "[CH2:7][CH:2]=[OH+:1]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cyclic_oe_molecular_ion"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_after_ethylene_loss", "species_ids": ["ethylene_first_loss", "shortened_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["ethylene_first_loss", "alkene_second_loss", "distonic_oxonium_c2h4o"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_loss_c2h4", "from_state": "state_ring_opened", "to_state": "state_after_ethylene_loss", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_loss_cnh2n", "from_state": "state_after_ethylene_loss", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_ring_opening", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 179, "equation": "8.53", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.8, "curator_note": "Shared first step of the 'OE+.' block (identical in IMS8-EQ8.53a and IMS8-EQ8.54): radical-site alpha-cleavage of the n-ionized exocyclic substituent Y opens the carbocycle to the distonic ion Y+=CH-CH2-...-CH2. . Book draws 2 arc(s) on the left-hand cyclic structure; moves <1,2> are drawn (fishhook from the '+.' on Y into the forming Y=C pi bond, fishhook from the ring C-C bond into that same pi bond) and move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). INSTANTIATION (B/F): Y = OH, six-membered carbocycle = cyclohexanol molecular ion C6H12O+. m/z 100.0883, charge and odd electron localised on oxygen as printed; the OH hydrogen is the curator's minimal completion of the book's bare 'Y'."}, {"evidence_id": "ev_step_c2h4", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_loss_c2h4", "support_type": "textbook_proposed", "locator": {"page": 179, "equation": "8.53", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.6, "curator_note": "ALTERNATIVE branch of Eq 8.53: the page prints 'or' and a second reaction arrow labelled 'alpha, -C2H4' leaving the SAME ring-opened distonic ion, drawn as a separate route to the same final ion, which is why it is recorded separately from IMS8-EQ8.53a. Textbook radical-site alpha-cleavage at the tail: the terminal radical forms a C=C pi bond with its neighbour, the next C-C sigma bond breaks and neutral ethylene is expelled, leaving the radical two carbons further along the chain. Book draws 0 arc(s) for this step - only the labelled reaction arrow and the shortened 'bucket' product - so moves <1,2,3> are all curator-supplied and reproduce the standard three-fishhook alpha-cleavage exactly (move 3 is the homolysis hook onto the new radical carbon)."}, {"evidence_id": "ev_step_cnh2n", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_loss_cnh2n", "support_type": "textbook_proposed", "locator": {"page": 179, "equation": "8.53", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.5, "curator_note": "Second half of the 'or' branch: the arrow is labelled 'alpha, -CnH2n' and ends at the same .CH2-CH=Y+ ion that the direct branch (IMS8-EQ8.53a) reaches. Book draws 0 arc(s) here; moves <1,2,3> are curator-supplied standard alpha-cleavage fishhooks (move 3 being the homolysis hook that leaves the odd electron on the carbon alpha to Y+=CH). AMBIGUITY DISCLOSED: the book writes the neutral only as the formula 'CnH2n', which fits both an alkene and a cycloalkane; it is encoded here as the alkene produced by a plain radical-site alpha-cleavage (n = 2 for the cyclohexanol instantiation, i.e. a second ethylene), the reading that keeps this step the same reaction type as the preceding '-C2H4' arrow. If instead the intended neutral is the carbocycle of the direct branch, the step is the homolytic ring closure encoded in IMS8-EQ8.53a. For the instantiation the intermediate is C4H8O+. m/z 72.0570 and the final ion C2H4O+. m/z 44.0257."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c2h4o_distonic", "species_id": "distonic_oxonium_c2h4o", "step_id": "step_alpha_loss_cnh2n", "observed_mz": 44.0257, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
